US09260436B2
375 mg of 3-chloroperbenzoic acid (purity of 65% or more) was added to a mixture of 306 mg of 2-(4-chloro-2-ethylsulfanylphenyl)-4-ethylamino-7-trifluoro methylquinazoline and 5 ml of chloroform, under ice cooling, and the mixture was stirred at room temperature for 4 hours. A 10% aqueous sodium thiosulfate solution was added to the reaction mixture, and the mixture was extracted with chloroform. The organic layer was washed with a saturated aqueous sodium bicarbonate solution and dried over anhydrous magnesium sulfate, and then concentrated under reduced pressure. The resulting residue was applied to a silica gel column chromatography to obtain 270 mg of 2-(4-chloro-2-ethylsulfonylphenyl)-4-ethylamino-7-trifluoro methylquinazoline (Compound of Present Invention 16).

reactant | 3-chloroperbenzoic acid | 375 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 2-(4-chloro-2-ethylsulfanylphenyl)-4-ethylamino-7-trifluoro methylquinazoline | 306 mg | ClC1=CC(=C(C=C1)C1=NC2=CC(=CC=C2C(=N1)NCC)C(F)(F)F)SCC | C19H17ClF3N3S
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-(4-chloro-2-ethylsulfonylphenyl)-4-ethylamino-7-trifluoro methylquinazoline | 270 mg | ClC1=CC(=C(C=C1)C1=NC2=CC(=CC=C2C(=N1)NCC)C(F)(F)F)S(=O)(=O)CC | C19H17ClF3N3O2S
